US06521658B1
tert-butyl 2-methoxy-5-nitrophenylcarbamate
A solution of 2-methoxy-5-nitroaniline (2.0 g, 12 mmol) in dichloromethane was treated sequentially with NaHCO3 and di(tert-butyl)dicarbonate, stirred at room temperature overnight, treated with DMAP (10 mgs) and triethylamine (600 μL, 4 mmol), stirred at room temperature for 2 days, neutralized with 1M HCl, and extracted with ethyl acetate (500 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash chromatography on silica gel with 5% methanol:dichloromethane to provide 3 g of the desired product.

reactant | 2-methoxy-5-nitroaniline | 12 mmol, 2.0 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | di(tert-butyl)dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4 mmol, 600 μL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 10 mgs | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 2-methoxy-5-nitrophenylcarbamate | 3 g | COC1=C(C=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C12H16N2O5
